US07572809B2
Similar procedure as described in example 10 was used, starting from N-(4-hydroxy-phenyl)-acetamide and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give N-{4-[6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-phenyl}-acetamide. LC-MS m/e 404(MH+).

reactant | N-(4-hydroxy-phenyl)-acetamide | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | N-{4-[6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-phenyl}-acetamide | COC=1C=C2C=C(N=C(C2=CC1)OC1=CC=C(C=C1)NC(C)=O)NC1=NNC(=C1)C | C22H21N5O3
